* NGSPICE file created from SwitchMatrixMultiplexer_rcx.ext - technology: ihp-sg13g2

.subckt SwitchMatrixMultiplexer_rcx D VSS VDD A B X SEL
X0 a_300_158# a_274_122# a_238_158# VSS.t0 sg13_lv_nmos ad=0.1045p pd=0.93u as=49.5f ps=0.73u w=0.55u l=0.13u
X1 a_402_158# D.t0 a_300_158# VSS.t10 sg13_lv_nmos ad=49.5f pd=0.73u as=0.1045p ps=0.93u w=0.55u l=0.13u
X2 a_754_96# A.t0 a_692_96# VSS.t12 sg13_lv_nmos ad=0.1045p pd=0.93u as=49.5f ps=0.73u w=0.55u l=0.13u
X3 VSS.t7 SEL.t0 a_42_158# VSS.t8 sg13_lv_nmos ad=0.1045p pd=0.93u as=0.187p ps=1.78u w=0.55u l=0.13u
X4 VSS.t4 SEL.t0 a_402_158# VSS.t9 sg13_lv_nmos ad=0.19525p pd=1.35u as=49.5f ps=0.73u w=0.55u l=0.13u
X5 a_274_122# a_300_158# VSS.t4 VSS.t3 sg13_lv_nmos ad=0.16885p pd=1.29u as=0.19525p ps=1.35u w=0.88u l=0.13u
X6 a_692_96# a_300_158# a_274_122# VSS.t5 sg13_lv_nmos ad=49.5f pd=0.73u as=0.16885p ps=1.29u w=0.55u l=0.13u
X7 a_238_158# a_42_158# VSS.t7 VSS.t6 sg13_lv_nmos ad=49.5f pd=0.73u as=0.1045p ps=0.93u w=0.55u l=0.13u
X8 X.t0 a_754_96# VSS.t2 VSS.t13 sg13_lv_nmos ad=0.3168p pd=2.48u as=0.19525p ps=1.35u w=0.88u l=0.13u
X9 a_274_122# a_300_158# VDD.t2 VDD.t0 sg13_lv_pmos ad=0.2497p pd=1.71u as=0.2503p ps=1.77u w=1.3u l=0.13u
X10 a_856_96# B.t0 a_754_96# VSS.t11 sg13_lv_nmos ad=49.5f pd=0.73u as=0.1045p ps=0.93u w=0.55u l=0.13u
X11 VSS.t2 a_274_122# a_856_96# VSS.t1 sg13_lv_nmos ad=0.19525p pd=1.35u as=49.5f ps=0.73u w=0.55u l=0.13u
X12 a_300_158# a_274_122# a_238_448# VDD.t0 sg13_lv_pmos ad=0.1596p pd=1.22u as=75.59999f ps=1.02u w=0.84u l=0.13u
X13 VDD.t1 a_274_122# a_856_452# VDD.t0 sg13_lv_pmos ad=0.27p pd=1.77u as=73.8f ps=1u w=0.82u l=0.13u
X14 a_402_448# D.t0 a_300_158# VDD.t0 sg13_lv_pmos ad=75.59999f pd=1.02u as=0.1596p ps=1.22u w=0.84u l=0.13u
X15 a_692_452# a_300_158# a_274_122# VDD.t0 sg13_lv_pmos ad=73.8f pd=1u as=0.2497p ps=1.71u w=0.82u l=0.13u
X16 VDD.t4 SEL.t0 a_42_158# VDD.t0 sg13_lv_pmos ad=0.1596p pd=1.22u as=0.2856p ps=2.36u w=0.84u l=0.13u
X17 VDD.t2 a_42_158# a_402_448# VDD.t0 sg13_lv_pmos ad=0.2503p pd=1.77u as=75.59999f ps=1.02u w=0.84u l=0.13u
X18 a_754_96# B.t1 a_692_452# VDD.t0 sg13_lv_pmos ad=0.1558p pd=1.2u as=73.8f ps=1u w=0.82u l=0.13u
X19 a_238_448# SEL.t0 VDD.t4 VDD.t0 sg13_lv_pmos ad=75.59999f pd=1.02u as=0.1596p ps=1.22u w=0.84u l=0.13u
X20 a_856_452# A.t0 a_754_96# VDD.t0 sg13_lv_pmos ad=73.8f pd=1u as=0.1558p ps=1.2u w=0.82u l=0.13u
X21 X.t1 a_754_96# VDD.t1 VDD.t0 sg13_lv_pmos ad=0.468p pd=3.32u as=0.27p ps=1.77u w=1.3u l=0.13u
R0 X.n0 X.t0 8.47291
R1 X.n0 X.t1 6.45644
R2 X X.n0 0.135564
R3 A A.t0 15.7294
R4 B.n0 B.t1 15.1854
R5 B.n0 B.t0 15.0005
R6 B B.n0 0.0309255
R7 SEL SEL.t0 15.0428
R8 D.n0 D.t0 15.1896
R9 D.n0 D 0.116
R10 D D.n0 0.0520625
R11 VDD.n0 VDD.t4 17.5574
R12 VDD.n2 VDD.t2 17.4849
R13 VDD.n1 VDD.t1 9.38351
R14 VDD.n5 VDD.n4 8.47111
R15 VDD.n4 VDD.n3 4.17719
R16 VDD.n4 VDD.n1 2.74387
R17 VDD.n4 VDD.t0 1.41717
R18 VDD.n2 VDD.n1 0.359802
R19 VDD.n3 VDD.n0 0.262011
R20 VDD.n3 VDD.n2 0.21278
R21 VDD VDD.n5 0.120789
R22 VDD.n5 VDD.n0 0.098289
R23 VSS.n4 VSS.t6 620.306
R24 VSS.n6 VSS.t9 586.294
R25 VSS.t12 VSS.n0 571.067
R26 VSS.t1 VSS.t11 472.082
R27 VSS.t5 VSS.n1 418.783
R28 VSS.t3 VSS.n1 403.553
R29 VSS.n5 VSS.t10 403.553
R30 VSS.n5 VSS.t0 373.096
R31 VSS.t0 VSS.n3 357.868
R32 VSS.n6 VSS.t3 327.411
R33 VSS.t10 VSS.n2 327.411
R34 VSS.n7 VSS.t5 312.183
R35 VSS.t11 VSS.n0 205.584
R36 VSS.n7 VSS.t12 159.899
R37 VSS.t9 VSS.n2 144.671
R38 VSS.n4 VSS.t8 122.922
R39 VSS.n8 VSS.t13 117.856
R40 VSS.t6 VSS.n3 114.213
R41 VSS.n8 VSS.t1 69.6175
R42 VSS.n13 VSS.t7 17.3601
R43 VSS.n11 VSS.t4 17.2882
R44 VSS.n9 VSS.n3 17.0005
R45 VSS.n9 VSS.n5 17.0005
R46 VSS.n9 VSS.n2 17.0005
R47 VSS.n9 VSS.n6 17.0005
R48 VSS.n9 VSS.n1 17.0005
R49 VSS.n9 VSS.n7 17.0005
R50 VSS.n9 VSS.n0 17.0005
R51 VSS.n9 VSS.n4 13.0697
R52 VSS.n10 VSS.t2 9.17208
R53 VSS.n14 VSS.n9 8.47111
R54 VSS.n12 VSS.n9 5.61485
R55 VSS.n10 VSS.n9 2.32906
R56 VSS.n11 VSS.n10 0.331382
R57 VSS.n9 VSS.n8 0.307027
R58 VSS.n12 VSS.n11 0.230486
R59 VSS.n13 VSS.n12 0.203325
R60 VSS VSS.n14 0.120789
R61 VSS.n14 VSS.n13 0.098289
C0 A a_274_122# 0.42638f
C1 a_300_158# a_754_96# 0.00226f
C2 a_402_448# D 0
C3 VDD SEL 0.12149f
C4 a_300_158# a_692_452# 0
C5 a_856_452# a_754_96# 0.0057f
C6 a_300_158# B 0.06273f
C7 a_300_158# VDD 0.27972f
C8 a_754_96# a_692_96# 0.00178f
C9 SEL D 0.04436f
C10 a_274_122# SEL 0.06446f
C11 a_300_158# D 0.14967f
C12 a_274_122# a_300_158# 0.70513f
C13 a_856_452# VDD 0.00107f
C14 a_692_452# a_754_96# 0
C15 a_754_96# B 0.31238f
C16 VDD a_754_96# 0.30518f
C17 a_274_122# a_402_158# 0.00633f
C18 a_274_122# a_856_452# 0.00467f
C19 a_274_122# a_692_96# 0.0035f
C20 a_274_122# a_754_96# 0.31039f
C21 VDD a_692_452# 0
C22 VDD B 0.06126f
C23 a_238_158# a_42_158# 0
C24 a_274_122# a_692_452# 0.00867f
C25 a_274_122# B 0.13781f
C26 a_754_96# X 0.07563f
C27 VDD D 0.43812f
C28 a_274_122# VDD 0.36887f
C29 a_856_96# a_754_96# 0.00516f
C30 a_274_122# D 0.07582f
C31 VDD X 0.1789f
C32 a_274_122# X 0
C33 a_274_122# a_856_96# 0
C34 a_42_158# a_238_448# 0.00464f
C35 a_42_158# a_402_448# 0.00305f
C36 a_238_158# a_274_122# 0.00465f
C37 a_300_158# a_238_448# 0
C38 a_42_158# SEL 0.18296f
C39 a_300_158# a_42_158# 0.36477f
C40 A a_300_158# 0.07818f
C41 a_300_158# a_402_448# 0.00817f
C42 VDD a_238_448# 0
C43 A a_856_452# 0
C44 A a_754_96# 0.01799f
C45 a_300_158# SEL 0.01651f
C46 D a_238_448# 0.00526f
C47 a_274_122# a_238_448# 0
C48 VDD a_42_158# 0.22117f
C49 A a_692_452# 0.00104f
C50 A B 0.15075f
C51 A VDD 0.41255f
C52 a_42_158# D 0.09428f
C53 a_274_122# a_42_158# 0.3235f
C54 a_300_158# a_402_158# 0.00265f
C55 VDD a_402_448# 0.00155f
C56 X VSS 0.35848f
C57 A VSS 0.47063f
C58 B VSS 0.09857f
C59 SEL VSS 0.60722f
C60 D VSS 0.11496f
C61 VDD VSS 0.2483f
C62 a_856_96# VSS 0.00261f
C63 a_692_96# VSS 0.0028f
C64 a_238_158# VSS 0.00164f
C65 a_692_452# VSS 0
C66 a_754_96# VSS 0.31723f
C67 a_238_448# VSS 0
C68 a_42_158# VSS 0.1746f
C69 a_300_158# VSS 0.15736f
C70 a_274_122# VSS 0.62621f
C71 VDD.t4 VSS 0.03531f
C72 VDD.n0 VSS 0.06111f
C73 VDD.t1 VSS 0.06374f
C74 VDD.n1 VSS 0.1362f
C75 VDD.t2 VSS 0.05527f
C76 VDD.n2 VSS 0.09123f
C77 VDD.n3 VSS 0.03116f
C78 VDD.t0 VSS 1.69742f
C79 VDD.n4 VSS 0.18974f
C80 VDD.n5 VSS 0.0145f
C81 D.t0 VSS 0.41368f
C82 D.n0 VSS 0.31786f
C83 SEL.t0 VSS 0.36832f
C84 B.t1 VSS 0.1414f
C85 B.t0 VSS 0.14094f
C86 B.n0 VSS 0.41502f
C87 A.t0 VSS 0.68593f
C88 X.t1 VSS 0.09131f
C89 X.t0 VSS 0.05865f
C90 X.n0 VSS 0.08349f
.ends

